US05559106
A. 1-Benzyloxy-7-trifluoromethylquinoxaline-2,3(1H, 4H)-dione
Benzyl bromide (72 ml, 0.60 mol) was added to a suspension of 1-hydroxy-7-trifluoromethylquinoxaline-2,3(1H,4H)-dione (49.2 g, 0.20 mol) in 2.5 l of ethanol and 800 ml of 1M potassium dihydrogen phosphate buffer (pH 7.4). The mixture was stirred at room temperature overnight, and filtered. The precipitate was washed with water and dried to give 59.5 g (89%) of the title compound. M.p.>220° C. decomp.

reactant | Benzyl bromide | 0.60 mol, 72 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-hydroxy-7-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 0.20 mol, 49.2 g | ON1C(C(NC2=CC=C(C=C12)C(F)(F)F)=O)=O | C9H5F3N2O3
solvent | ethanol | 2.5 l | C(C)O | C2H6O
solvent | potassium dihydrogen phosphate | 1M, 800 ml, pH 7.4 | P(=O)(O)(O)[O-].[K+]
product | 1-Benzyloxy-7-trifluoromethylquinoxaline-2,3(1H, 4H)-dione | 59.5 g, 89% | C(C1=CC=CC=C1)ON1C(C(NC2=CC=C(C=C12)C(F)(F)F)=O)=O | C16H11F3N2O3
